US04801717
3-fluoro-phenol was reacted with allyl bromide to form 3-fluoro-allyloxy-benzene with a refractive index of nD23 =1.4985 which was reacted with nitric acid to obtain 2-allyloxy-4-fluoro-nitro-benzene with a refractive index of nD23 =1.5432 which was reacted as in Example 1 to obtain 0-(4-nitro-3-allyloxy-phenyl)-hydroxylamine melting at 94°-95° C.

reactant | 3-fluoro-phenol | FC=1C=C(C=CC1)O | C6H5FO
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 3-fluoro-allyloxy-benzene | FC=1C=C(C=CC1)OCC=C | C9H9FO
